US04127667
3,4,7,8-Tetrahydro-2-oxo-4-phenyl-8-(phenylmethylene)-2H,5H-thiopyrano[4,3-b]pyran-3-carbonitrile
To a solution of NaOEt (from 555 mg, 92 mg atom Na in absolute EtOH) in 100 ml of absolute EtOH is added ethyl cyanoacetate (2.44 g, 22 mmole) dissolved in 50 ml of absolute EtOH. This is heated at reflux temperature for 2 hours, cooled slightly and tetrahydro-3,5-bis(phenylmethylene)-4H-thiopyran-4-one (5.84 g, 20 mmole) is added at once. The mixture quickly turns orange-red for ca. 10 minutes, changing to yellow (yellow solids in orange-red solution) as heating is continued for 2 hours.

reactant | NaOEt | 555 mg | CC[O-].[Na+]
reactant | ethyl cyanoacetate | 22 mmole, 2.44 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | tetrahydro-3,5-bis(phenylmethylene)-4H-thiopyran-4-one | 20 mmole, 5.84 g | C1(=CC=CC=C1)C=C1CSCC(C1=O)=CC1=CC=CC=C1 | C19H16OS
solvent | EtOH | 100 ml | CCO | C2H6O
solvent | EtOH | 50 ml | CCO | C2H6O
product | 3,4,7,8-Tetrahydro-2-oxo-4-phenyl-8-(phenylmethylene)-2H,5H-thiopyrano[4,3-b]pyran-3-carbonitrile | O=C1C(C(C2=C(O1)C(CSC2)=CC2=CC=CC=C2)C2=CC=CC=C2)C#N | C22H17NO2S
